US07855297B2
To a solution of N-[(4-dimethylaminophenyl)methyl]-6-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.66 g) in dimethylformamide (10 mL) were added 2-chloro-N,N-dimethylethylamine hydrochloride (0.26 g) and potassium carbonate (0.62 g), and the mixture was stirred with heating at 50° C. for 3 hr. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give 6-[2-(dimethylamino)ethoxy]-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide ⅕ hydrate (0.1 g). melting point: 132.6° C.

reactant | N-[(4-dimethylaminophenyl)methyl]-6-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.66 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC(=CC=C12)O)C1=CC=C(C=C1)C(C)C)C | C29H34N2O2
reactant | 2-chloro-N,N-dimethylethylamine hydrochloride | 0.26 g | Cl.ClCCN(C)C
reactant | potassium carbonate | 0.62 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-[2-(dimethylamino)ethoxy]-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.1 g | CN(CCOC=1C=C2CCCC(C2=CC1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)N(C)C)C | C33H43N3O2
